US05175166
1,4,5,6-Tetrahydro-5-ethoxycarbonylpyrimidine Hydrochloride
1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride (1.5 g, 9.12 mmol) was dissolved in absolute ethanol (40 ml) by heating. The thionyl chloride (1.1 g, 9.16 mmol) was added dropwise with stirring. The resulting solution was refluxed 20 h and then evaporated to dryness in vacuo. The residue was taken up in absolute methanol (5 ml) and dry THF (10 ml) was added to induce crystallization, giving 1.1 g (63%) product as white crystals, mp 125°-127° C. 300 MHz nmr confirmed the product. Microanalysis calc.: C 43.64, H 6.75, N 14.55; found: C, 43.43, H 6.58, N 14.40.

reactant | 1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride | 9.12 mmol, 1.5 g | Cl.N1C=NCC(C1)C(=O)O
reactant | thionyl chloride | 9.16 mmol, 1.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 1,4,5,6-Tetrahydro-5-ethoxycarbonylpyrimidine Hydrochloride | 1.1 g, 63% | Cl.C(C)OC(=O)C1CN=CNC1 | InChI=1S/C7H12N2O2.ClH/c1-2-11-7(10)6-3-8-5-9-4-6;/h5-6H,2-4H2,1H3,(H,8,9);1H
